US04602092
[Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid, ethyl ester
To a solution of 4-phenylbutyl phosphonous acid (1.0 g, 0.005 mole) in chloroform (20 ml) was added triethylamine (1.6 ml, 0.011 mole) and the solution was cooled in an ice bath to 0° C. Trimethyl silyl chloride (1.4 ml, 0.011 mole) was added to the above solution dropwise, followed by ethyl bromoacetate (0.84 g, 0.56 ml, 0.011 mole). The ice bath was removed and the mixture stirred at room temperature overnight. The mixture was poured into 10% aqueous HCl (10 ml) and crushed ice HCl (10 ml) and crushed ice (10 g). After shaking the mixture in a separatory funnel, the chloroform layer was separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and the solvents removed on a rotavap. The resulting crude thick oil (1.42 g) was vacuum dried to get 1.42 g (99%) of title compound in the form of an oil. TLC: silica gel, CH2Cl2 :MeOH:HOAc shows one main spot, but elongated, Rf =0.29.

reactant | 4-phenylbutyl phosphonous acid | 0.005 mole, 1.0 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.011 mole, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethyl silyl chloride | 0.011 mole, 1.4 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl bromoacetate | 0.011 mole, 0.56 ml, 0.84 g | BrCC(=O)OCC | C4H7BrO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | [Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid, ethyl ester | 1.42 g, 99% | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC | C14H21O4P
